### ISSUE TITLE
calc_first_step/calc_step misindent when the leading step doesn't share calc's line

### ISSUE THREAD

**Issue by tmurph** [tmurph/yalm#3]
Follow-up from #2 (closed) — found by Erica during review of #2's fix, then dug into further by Tim per the orchestrator's request.

## Background

The rule added in `f2422d1` to fix #2:

```elisp
;; `calc' steps are the same flat-run shape -- see #2.
((node-is ,(lean-ts--regexp lean-ts-calc-step-nodes)) standalone-parent 0)
```

fixes the case where `calc` shares its own line with the first step. But it applies unconditionally to *every* member of `lean-ts-calc-step-nodes`, including `calc_first_step` itself when `calc_first_step` starts its own line instead — which collapses the whole block onto `calc`'s own column instead of indenting one step in.

## The bug

Exact input (real mathlib style — `calc` alone on its own line, first step on the next):

```lean
theorem foo : True := by
  calc
    a = 0 := by
      simp
    _ = 0 := bar
```

Currently reindents to:

```lean
theorem foo : True := by
  calc
  a = 0 := by
    simp
  _ = 0 := bar
```

**This is not an edge case.** `grep -rn '^\s*calc\s*$' --include=*.lean` under mathlib (as vendored in the Analysis-Rudin project this repo is regularly smoke-tested against) turns up **2104** bare-`calc`-alone-on-its-own-line occurrences — this is the dominant style for any `calc` chain whose first step doesn't fit on the `calc` line, considerably more common in the wild than the shared-line shape #2 fixed.

## Why the tree supports a real fix here (unlike a related dead end — see below)

Whether `calc`'s first step shares `calc`'s own line is trivially and reliably tree-distinguishable: compare the line `calc` starts on to the line its first step starts on (`calc`'s children are strictly `[calc, calc_first_step, calc_step, calc_step, ...]`, no intervening fields, so the first step is always `(treesit-node-child calc-node 1)`). The existing `lean-ts--same-line-p` helper (already used by `lean-ts--hanging-item-p`) is exactly this check.

## Suggested fix

Mirror the existing `lean-ts--hanging-item-p`/`lean-ts--hanging-item-anchor` idiom:

```elisp
(defun lean-ts--calc-shares-line-p (_node parent &rest _)
  "Non-nil when PARENT (a `calc' node) has its first step on `calc''s own line."
  (lean-ts--same-line-p parent (treesit-node-child parent 1)))
```

Replace the single existing rule with two:

```elisp
;; `calc' steps are the same flat-run shape as arms -- see #3. When the
;; leading step shares `calc''s own line, every step (including that
;; one) aligns with `calc'. When it doesn't -- the more common style for
;; longer calc chains -- every step indents one step in from `calc'
;; instead, the same way a hanging node's first item does when it
;; doesn't share its opener's line.
((and (node-is ,(lean-ts--regexp lean-ts-calc-step-nodes))
      lean-ts--calc-shares-line-p)
 standalone-parent 0)
((node-is ,(lean-ts--regexp lean-ts-calc-step-nodes))
 standalone-parent lean-ts-indent-offset)
```

Verified via a full prototype (copy `lean-ts-indent-rules`, splice in the replacement, install via `treesit-simple-indent-rules`):
- Fixes the mathlib-standard case above (round-trips clean).
- Both existing `test/lean-ts-test.el` calc specs still pass unchanged — no regression.
- The real `Chapter5.lean` shared-line shape (`calc {x}` / `_ ⊆ ... := by`) still resolves correctly.
- Whole-file reindent of `Chapter5.lean` is byte-identical to the unmodified rules' output (that file only uses the shared-line style, so it never exercised this bug either way).

**Trade-off, stated up front:** this fix normalizes a hand-typed *arbitrary* deeper depth for a non-shared-line `calc_first_step` down to the standard one-step offset, the same way `lean-ts-hanging-nodes` already does for its own "first item on its own line" case. This is deliberate, for consistency with that existing precedent — see the companion issue for why preserving an arbitrary depth is *not* the right call for the sibling `lean-ts-arm-nodes` shape either, despite looking like the same class of problem.

## Test coverage

`test/lean-ts-test.el`, the `"calc"` `it` blocks (currently 2, right after `"remains aligned with \"calc\" after a multi-line step"`, lines ~664-687). Suggested spec:

```elisp
(it "increases from a bare \"calc\" when the first step starts its own line"
  (lean-indent-test '("example : Nat :="
                      "  calc"
                      "‸1 = 1 := rfl")
                    '("example : Nat :="
                      "  calc"
                      "    1 = 1 := rfl")))
```

**Comment by tmurph** [comment]
Fixed in f2007df.

## Root cause

The rule added in f2422d1 (#2) was:

```elisp
((node-is ,(lean-ts--regexp lean-ts-calc-step-nodes)) standalone-parent 0)
```

This anchors every calc_first_step/calc_step at calc's own column
unconditionally. That's correct when calc's first step shares calc's own
line (`calc {x}`), but wrong for the dominant mathlib style — confirmed by
Tim at 2104 occurrences of bare `calc` alone on its own line in the
vendored mathlib Analysis-Rudin project — where the first step starts its
own line below a bare `calc`.

## Fix

calc's children are strictly `[calc, calc_first_step, calc_step, ...]`
with no intervening fields, so the first step is always
`(treesit-node-child calc-node 1)`. Whether it shares calc's own line is
tree-distinguishable with the existing lean-ts--same-line-p helper
(already used by lean-ts--hanging-item-p for the analogous "does the
first item of a hanging construct share its opener's line" check):

```elisp
(defun lean-ts--calc-shares-line-p (_node parent &rest _)
  "Non-nil when PARENT (a `calc' node) has its first step on `calc''s own line."
  (lean-ts--same-line-p parent (treesit-node-child parent 1)))
```

The single rule became two: when the leading step shares calc's line,
every step (including that one) aligns with calc, same as before; when it
doesn't, every step indents one step in from calc instead — mirroring how
a hanging node's first item behaves when it doesn't share its opener's
line.

```elisp
((and (node-is ,(lean-ts--regexp lean-ts-calc-step-nodes))
      lean-ts--calc-shares-line-p)
 standalone-parent 0)
((node-is ,(lean-ts--regexp lean-ts-calc-step-nodes))
 standalone-parent lean-ts-indent-offset)
```

## Before/after (mathlib-standard style)

Reindenting just the misindented `a = 0 := by` line (point on it, rest of
the buffer already correctly formatted, mirroring how the test harness
exercises a single line):

Input:
```
theorem foo : True := by
  calc
a = 0 := by
      simp
    _ = 0 := bar
```

Before the fix, that line reindented to column 0 (collapsed onto calc's
own column). After the fix:
```
theorem foo : True := by
  calc
    a = 0 := by
      simp
    _ = 0 := bar
```

## Trade-off carried over from the issue

This normalizes a hand-typed *arbitrary* deeper depth for a non-shared-line
calc_first_step down to the standard one-step offset, the same way
lean-ts-hanging-nodes already does for its own analogous case. That's
deliberate, not something this fix tries to work around.

## Verification

- Both existing calc specs in test/lean-ts-test.el still pass unchanged.
- New spec added for the bare-calc/first-step-on-its-own-line case.
- Whole eldev test suite: 76 specs, 0 failed (was 75 before this fix).
- Manually reindented the real Chapter5.lean shared-line shape (`calc {x}`
  / `_ ⊆ ... := by`) — still resolves correctly, unaffected by the new
  branch.

**Comment by tmurph** [comment]
LGTM.

Checked the specific things flagged for this one:

- Shape fidelity: the commit matches the issue's suggested fix (predicate, rule split, test) essentially verbatim -- nothing lost in the hand-off.
- The `(treesit-node-child calc-node 1)` assumption: verified empirically (not just trusted from the issue text) -- for `calc\n  1 = 1 := rfl`, child 0 is the anonymous "calc" token and child 1 is `calc_first_step`; for the shared-line case child 1 is still `calc_first_step`, on `calc`'s own line. `node-types.json` confirms `calc_first_step`/`calc_step` are `calc`'s only named children, no fields to worry about.
- `lean-ts--calc-shares-line-p` genuinely mirrors `lean-ts--hanging-item-p`'s idiom (reuses `lean-ts--same-line-p`), just comparing `parent` directly instead of going through `lean-ts--hanging-parts` -- appropriate simplification given `calc` is a single shape, not a dispatch over several node types like the hanging case.
- `eldev test`: 76/76. `eldev compile`: clean.
- Manually reindented the multi-step "own-line" chain (not just the single-line spec in the test) -- a later `_` step correctly lands at the offset column, not `calc`'s own column.
- Whole-file reindent of the real Chapter5.lean is byte-identical before/after this commit (checked against a worktree at f2422d1) -- confirms the shared-line shape is untouched, as expected since that file never exercises the new branch.
- `lean-ts-arm-nodes` (#4's dead end) is untouched, as expected -- different rule entirely.

No amendment needed.

**Comment by tmurph** [comment]
Fixed in f2007df, reviewed and approved (LGTM) by Erica, landed on devel.
